US08710245B2
(a) Synthesis of 2-(4-methylthiophen-2-yl)ethanol
To a solution of 3-methylthiophene (5 g, 51.0 mmol) in dry ether (250 mL) at −65° C. was added n-BuLi (25 mL, 2.5 N in THF) dropwise. After stirring for 1 h, oxirane (2.7 g, 61.3 mmol) was added in one portion. The resulting reaction mixture was warmed to room temperature and stirred overnight. The reaction was then quenched with water. After separation of layers, the organic layer was washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (6.2 g, 86%).

reactant | 3-methylthiophene | 51.0 mmol, 5 g | CC1=CSC=C1 | C5H6S
reactant | n-BuLi | 2.5 N, 25 mL | [Li]CCCC
reactant | oxirane | 61.3 mmol, 2.7 g | O1CC1 | C2H4O
solvent | ether | 250 mL | CCOCC | C4H10O
product | 2-(4-methylthiophen-2-yl)ethanol | 6.2 g, 86% | CC=1C=C(SC1)CCO | C7H10OS
